US05792557
A 500-ml reactor was charged with 44.5 g (0.139 mol) of di(3-biphenyl)amine, 27.6 g (0.0680 mol) of 4,4'-diiodobiphenyl, 34.3 g (0.249 mol) of potassium carbonate, 2.3 g of copper powder, and 180 ml of nitrobenzene. In an argon stream, the contents were heated under reflux for 24 hours. At the end of reaction, the insoluble was removed by filtration and the filtrate was distilled of the solvent. The still residue was purified through a silica gel column with a 3/1 mixture of n-hexane and toluene, obtaining 30 g of N,N,N',N'-tetra(3-biphenylyl)benzidine of primary purity grade (yield 55.7%). It was further purified by recrystallization from toluene, obtaining 6.0 g of a 99.58% pure fraction and 5.0 g of a 99.23% pure fraction (combined yield 20.496). Further purification by sublimation yielded 8.0 g of a 99.99% pure product.

reactant | 4,4'-diiodobiphenyl | 0.0680 mol, 27.6 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium carbonate | 0.249 mol, 34.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 180 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 2.3 g | [Cu] | Cu
product | N,N,N',N'-tetra(3-biphenylyl)benzidine | 30 g, yield 55.7% | C1(=CC(=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(N(C=2C=C(C=CC2)C2=CC=CC=C2)C=2C=C(C=CC2)C2=CC=CC=C2)C=C1)C=1C=C(C=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C60H44N2
